### PR TITLE
[Merged by Bors] - feat(Order/Monotone/Basic): Add Monotone.dual_iff and Antitone.dual_iff

### PR DESCRIPTION
**Pull request by mans0954**
Add if and only if versions of `Monotone.dual` and `Antitone.dual`.

Needed for #5672

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Monotone/Basic.lean [hunk 1]
```diff
@@ -246,6 +246,16 @@ protected theorem Antitone.dual (hf : Antitone f) : Antitone (toDual ∘ f ∘ o
   swap hf
 #align antitone.dual Antitone.dual
 
+protected theorem Monotone.dual_iff : Monotone f ↔ Monotone (toDual ∘ f ∘ ofDual : αᵒᵈ → βᵒᵈ) := by
+  constructor
+  · exact Monotone.dual
+  · exact Monotone.dual
```
Comment (ADedecker) [inline Mathlib/Order/Monotone/Basic.lean:252]:
```suggestion
  rw [monotone_toDual_comp_iff, antitone_comp_ofDual_iff]
```

File: Mathlib/Order/Monotone/Basic.lean [hunk 2]
```diff
@@ -246,6 +246,16 @@ protected theorem Antitone.dual (hf : Antitone f) : Antitone (toDual ∘ f ∘ o
...
+
+protected theorem Antitone.dual_iff : Antitone f ↔ Antitone (toDual ∘ f ∘ ofDual : αᵒᵈ → βᵒᵈ) := by
+  constructor
+  · exact Antitone.dual
+  · exact Antitone.dual
```
Comment (ADedecker) [inline Mathlib/Order/Monotone/Basic.lean:257]:
```suggestion
  rw [antitone_toDual_comp_iff, monotone_comp_ofDual_iff]
```

File: Mathlib/Order/Monotone/Basic.lean [hunk 3]
```diff
@@ -246,6 +246,16 @@ protected theorem Antitone.dual (hf : Antitone f) : Antitone (toDual ∘ f ∘ o
   swap hf
 #align antitone.dual Antitone.dual
 
+protected theorem Monotone.dual_iff : Monotone f ↔ Monotone (toDual ∘ f ∘ ofDual : αᵒᵈ → βᵒᵈ) := by
```
Comment (ADedecker) [inline Mathlib/Order/Monotone/Basic.lean:249]:
```suggestion
theorem monotone_dual_iff : Monotone f ↔ Monotone (toDual ∘ f ∘ ofDual : αᵒᵈ → βᵒᵈ) := by
```
Similar below.

**Review by ADedecker — COMMENTED** [review]
It would be nice to do the same for all the `.dual` lemma, and then remove them and use `alias` to get them from the `iff` versions. Could you please do that?

**Comment by mans0954** [comment]
> It would be nice to do the same for all the `.dual` lemma, and then remove them and use `alias` to get them from the `iff` versions. Could you please do that?

I think I've done this now.

File: Mathlib/Order/Monotone/Basic.lean [hunk 4]
```diff
@@ -238,42 +238,46 @@ theorem strictAntiOn_toDual_comp_iff : StrictAntiOn (toDual ∘ f : α → βᵒ
   Iff.rfl
 #align strict_anti_on_to_dual_comp_iff strictAntiOn_toDual_comp_iff
 
-protected theorem Monotone.dual (hf : Monotone f) : Monotone (toDual ∘ f ∘ ofDual : αᵒᵈ → βᵒᵈ) :=
-  swap hf
+theorem monotone_dual_iff : Monotone f ↔ Monotone (toDual ∘ f ∘ ofDual : αᵒᵈ → βᵒᵈ) := by
```
Comment (ADedecker) [inline Mathlib/Order/Monotone/Basic.lean:241]: I think it would be better to swap the two sides of the statement, to match [monotone_toDual_comp_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Monotone/Basic.html#monotone_toDual_comp_iff) (as usual, most complicated side on the LHS)

File: Mathlib/Order/Monotone/Basic.lean [hunk 5]
```diff
@@ -238,42 +238,46 @@ theorem strictAntiOn_toDual_comp_iff : StrictAntiOn (toDual ∘ f : α → βᵒ
...
+  rw [monotone_toDual_comp_iff, antitone_comp_ofDual_iff]
+alias monotone_dual_iff ↔ Monotone.dual _
 #align monotone.dual Monotone.dual
```
Comment (ADedecker) [inline Mathlib/Order/Monotone/Basic.lean:244]: I think it would be cleaner to move that below (with the other aliases), could you do that. Also, I've just realized this makes the names not protected anymore, which is annoying, so I asked on [Zulip](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/protected.20alias/near/379644420) how can we go around that.

File: Mathlib/Order/Monotone/Basic.lean (hunk 4 above)
Comment (mans0954) [reply Mathlib/Order/Monotone/Basic.lean]: Yes. Done.

File: Mathlib/Order/Monotone/Basic.lean (hunk 5 above)
Comment (mans0954) [reply Mathlib/Order/Monotone/Basic.lean]: @ADedecker  I've moved the aliases - haven't seen a reply on Zulip about the `protected` names yet.

Comment (ADedecker) [reply Mathlib/Order/Monotone/Basic.lean]: This feature indeed doesn't exist yet, but it will soon (leanprover/std4#200). For now this doesn't cause any problems so I'll just merge it, we can add back `protected` later.

**Comment by ADedecker** [comment]
Thanks!

bors merge
